US05556863
Preparation of 3-propanoyl-4-(2-methylphenylamino)-8-(3-methylthiopropoxy)quinoline
3-Propanoyl-4-chloro-8-(3-methylthiopropoxy)quinoline (1.2 g, 3.71 mmol) and o-toluidine (0.795 g, 7.42 mmol) was refluxed in acetonitrile (18 ml) for 100 min. The solvent was evaporated and the residue was purified by column chromatography (methylene chloride: methanol 100:3). 1.45 g (99%) of the title compound was obtained.

reactant | 3-Propanoyl-4-chloro-8-(3-methylthiopropoxy)quinoline | 3.71 mmol, 1.2 g | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OCCCSC | C16H18ClNO2S
reactant | o-toluidine | 7.42 mmol, 0.795 g | NC=1C(=CC=CC1)C | C7H9N
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
product | 3-propanoyl-4-(2-methylphenylamino)-8-(3-methylthiopropoxy)quinoline | 1.45 g, 99% | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCCSC | C23H26N2O2S
